US04352792
A mixture of 250 mg of 4',5-dihydroxy-3,3',7-trimethoxyflavone, 60 mg of sodium acetate and 70 mg of acetic anhydride was heated at 100° C. for 2 hours. The reaction mixture was evaporated under reduced pressure, and the residue was extracted with 30 ml of chloroform. Removal of the solvent from the extract and subsequent recrystallization of the residue from methanol gave 250 mg (90% yield) of 4'-acetoxy-5-hydroxy-3,3',7-trimethoxyflavone as yellow crystals: m.p. 168°-169° C.

reactant | 4',5-dihydroxy-3,3',7-trimethoxyflavone | 250 mg | OC1=C(C=C(C=2OC3=CC(=CC(=C3C(C2OC)=O)O)OC)C=C1)OC | C18H16O7
reactant | sodium acetate | 60 mg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 70 mg | C(C)(=O)OC(C)=O | C4H6O3
product | 4'-acetoxy-5-hydroxy-3,3',7-trimethoxyflavone | 250 mg, 90% yield | C(C)(=O)OC1=C(C=C(C=2OC3=CC(=CC(=C3C(C2OC)=O)O)OC)C=C1)OC | C20H18O8
